US06541492B1
9-Fluorenylmethyl chloroformate (6.9 g) was added to biphasic mixture of tert-butyl 4-(4-aminobutyl)benzoate (5.7 g) in THF (100 mL) and saturated aqueous NaHCO3 (50 mL). The resulting mixture was stirred at r.t. for 1 h and then diluted with EtOAc and H2O. The organic layer was separated and washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by flash chromatography to give 7.4 g of tert-butyl 4-(4-(9-fluorenylmethoxycarbonyl)-aminobutyl)benzoate.

reactant | 9-Fluorenylmethyl chloroformate | 6.9 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | tert-butyl 4-(4-aminobutyl)benzoate | 5.7 g | NCCCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C15H23NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | tert-butyl 4-(4-(9-fluorenylmethoxycarbonyl)-aminobutyl)benzoate | 7.4 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)C(CCCC1=CC=C(C(=O)OC(C)(C)C)C=C1)N | C30H33NO4
